US07507734B2
4-(3-Bromo-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one
22 mg 4-(1H-Indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one is suspended in 30 mL acetone and 2 mg N-bromosuccinimide is added. The reaction mixture is stirred for 3 hours at room temperature, the precipitated product isolated by filtration and washed with acetone. The product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (0.05% HCOOH). Yield 11.2 mg. LC-MS (ES+) 368 (M+H)+.

reactant | 4-(1H-Indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | 22 mg | N1C(=CC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C17H12N4O
reactant | N-bromosuccinimide | 2 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4-(3-Bromo-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | BrC1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C17H11BrN4O
